US07705042B2
c) 2-(4-Fluoro-piperidin-1-yl)-4-(4-methyl-piperazin-1-yl)-phenylamine
A solution of 1-[3-(4-fluoro-piperidin-1-yl)-4-nitro-phenyl]-4-methyl-piperazine (as prepared in the previous step, 0.20 g, 0.62 mmol) in 2:1 EtOH:water (6 mL) was treated with solid NH4Cl (0.33 g, 6.2 mmol) and iron powder (0.17 g, 3.1 mmol) then heated to 100° C. for 2.5 h. The reaction was cooled to room temperature, treated with 1 drop of glacial acetic acid, and heated again to 100° C. for 30 min. The reaction was cooled to room temperature and neutralized with saturated aqueous NaHCO3. The product was extracted with CH2Cl2, and the combined organic layers were dried over MgSO4 and concentrated in vacuo to afford the title compound (0.19 g, 99%), which was used immediately in the next reaction. LC-MS (ESI, m/z): Calcd. for C16H25FN4, 293.2 (M+H), found 293.1.

reactant | 1-[3-(4-fluoro-piperidin-1-yl)-4-nitro-phenyl]-4-methyl-piperazine | FC1CCN(CC1)C=1C=C(C=CC1[N+](=O)[O-])N1CCN(CC1)C | C16H23FN4O2
reactant | EtOH | CCO | C2H6O
reactant | NH4Cl | 6.2 mmol, 0.33 g | [NH4+].[Cl-]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
catalyst | iron | 3.1 mmol, 0.17 g | [Fe] | Fe
solvent | water | 6 mL | O | H2O
product | 2-(4-Fluoro-piperidin-1-yl)-4-(4-methyl-piperazin-1-yl)-phenylamine | 0.19 g, 99% | FC1CCN(CC1)C1=C(C=CC(=C1)N1CCN(CC1)C)N | C16H25FN4
